US06229011B1
4-(3-acetyl-5-oxo-2-phenyl-4-phenylmethyl-1-imidazolidinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (Diastereomer 1) (415 mg, 0.7 mmol) was treated with 10 mL of 4N HCl in dioxane at room temperature for 2 hr. After removal of solvent, the residue was dried overnight under vacuum. The residue (241 mg, 0.471 mmol) was dissolved in DMF (4 mL) and was treated with 2-chloro-6methylbenzoic acid (105 mg, 0.617 mmol), HBTU (234 mg, 0.617 mmol) and DIEA (246 μL, 1.42 mmol) at room temperature for 4 hr. The mixture was diluted with 30 mL of ethyl acetate, the mixture was washed with 1N HCl, water and brine (8 mL each), After it was dried over MgSO4, the solvent was removed and the residue was filtered through silica gel eluting with ethyl acetate:hexane (4:1 ) to give 4-(3-acetyl-5-oxo-2-phenyl-4-phenylmethyl-1-imidazolidinyl)-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester diastereomer 1.

reactant | 4-(3-acetyl-5-oxo-2-phenyl-4-phenylmethyl-1-imidazolidinyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 0.7 mmol, 415 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C(N(C(C1=O)CC1=CC=CC=C1)C(C)=O)C1=CC=CC=C1)=O | C33H37N3O6
reactant | HCl | 4N, 10 mL | Cl | ClH
reactant | 2-chloro-6methylbenzoic acid | 0.617 mmol, 105 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | HBTU | 0.617 mmol, 234 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.42 mmol, 246 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-acetyl-5-oxo-2-phenyl-4-phenylmethyl-1-imidazolidinyl)-N-[(2-chloro-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)N1C(N(C(C1=O)CC1=CC=CC=C1)C(C)=O)C1=CC=CC=C1)=O | C36H34ClN3O5
